US06964966B2
Ammonium acetate (20 g) was added to the stirred solution of 1-carbethoxy-3,5-dimethyl-4-piperidinone (4.5 g, 22.5 mmol) in methanol (200 ml) and stirred for 3 hr. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (1.4 g, 22.5 mmol) was added to it. Cooling was removed and stirring was for 3 hr at 35° C. The reaction mixture was concentrated, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to give 4-amino-1-carbethoxy-3,5-dimethylpiperidine. The obtained 4-amino-1-carbethoxy-3,5-dimethylpiperidine was subjected to silica gel column chromatography. Elution with 5% methanol in chloroform furnished a solid, which was a mixture of stereoisomers, conformational analysis of which was not obtained.

reactant | Ammonium acetate | 20 g | C(C)(=O)[O-].[NH4+]
reactant | 1-carbethoxy-3,5-dimethyl-4-piperidinone | 22.5 mmol, 4.5 g | C(=O)(OCC)N1CC(C(C(C1)C)=O)C | C10H17NO3
reactant | sodium cyanoborohydride | 22.5 mmol, 1.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-amino-1-carbethoxy-3,5-dimethylpiperidine | NC1C(CN(CC1C)C(=O)OCC)C | C10H20N2O2
